Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Fish derived
 
Attending: ___.
 
Chief Complaint:
cc: painless jaundice
 
Major Surgical or Invasive Procedure:
ERCP ___
 
History of Present Illness:
___ y/o F with h/o breast ca and new HOP pancreatic adenocarcinma 
primary vs. metastasis from breast cancer metastasis presented 
with painless jaundice. Admitted overnight for observation after 
ERCP. 

___ - presented to ___ oncologist with mild abd pain 
(since resolved). Abd CT found to have pancreatic mass
___ - endoscopic u/s found adenocarcinoma, scheduled appt with 
surg onc tomorrow (___) for assessment of next steps.

Began developing darkened urine, lab tests showed elev in LFT, 
TB (8.7) referred for ERCP. ERCP today - sphincterotomy, 
placement of stent, removal of stones

Currently patient with no complaints except she is hungry. No 
abd pain now or recently. 

Review of Systems:  
(-) fever, chills, night sweats, headache, rhinorrhea (does have 
post-nasal drip), sore throat, cough, shortness of breath, chest 
pain, abdominal pain, nausea, vomiting, diarrhea
 
Past Medical History:
-Hypercholesteroemai
-Osteopenia
-Allergic rhinitis
- Knee arthritis
- Varciose veins
-Invasive ductal carcinoma - grade III, left breast mass, 
er/pr-posite her2neu neg, fna left ax node positive, ___ 
breast lumpectomy, ___ nodes pos, ___ to ___ was on arimdex
 
Social History:
___
Family History:
brother with colon cancer
 
Physical Exam:
Physical Exam:  98, 127/62, 102, 18, 97% RA
General: well appearing, alopecia, no acute distress, pleasant
HEENT:   no jaundice, PERRL
Neck:   no ___
CV:  RRR no m
Lungs: CTAB
Abdomen: soft, no HSM, active BS, no tenderness
GU: no CVAT
Ext:   no edema, erythema c/w chronic edema though
Neuro: grossly intact
Skin: warm, dry

Physical exam on discharge unchanged.
 
Pertinent Results:
___ 10:20AM   ALT(SGPT)-308* AST(SGOT)-273* ALK PHOS-322* 
AMYLASE-36 TOT BILI-9.9* DIR BILI-6.1* INDIR BIL-3.8
___ 10:20AM   WBC-4.2 RBC-4.25 HGB-13.9 HCT-42.8 MCV-101* 
MCH-32.6* MCHC-32.4 RDW-13.1

labs on discharge:

___ 04:10AM BLOOD WBC-4.3 RBC-3.68* Hgb-11.8* Hct-37.0 
MCV-101* MCH-32.2* MCHC-32.0 RDW-13.7 Plt ___
___ 04:10AM BLOOD Neuts-78* Bands-0 Lymphs-10* Monos-10 
Eos-1 Baso-1 ___ Myelos-0
___ 04:10AM BLOOD UreaN-5* Creat-0.5 Na-142 K-3.2* Cl-105
___ 04:10AM BLOOD ALT-213* AST-152* AlkPhos-266* 
TotBili-4.5*
___ 04:10AM BLOOD Albumin-3.0*
 
Brief Hospital Course:
___ y/o female with history of breast cancer and new pancreatic 
mass admitted for observation overnight following ERCP for 
painless jaundice.

#Pancreatic mass
#Biliary obstruction
The patient underwent ERCP with stent placement. She was 
monitored overnight with improvement in her LFTs the following 
day. Her diet was advanced which she tolerated well. She was 
seen by Dr. ___ from surgical oncology who  
recommended a  diagnostic laparoscopy to rule out occult 
metastatic disease with concurrent port placement. The patient 
will follow up with Dr. ___ oncologist, Dr. ___ to 
discuss further treatment. She will likely need repeat ERCP with 
metal stent placement in ___ months. 

#Hypercholesterolemia
Lipitor was held due to transminitis

Transitional issues:
- will follow up with surgical and medical oncology for further 
management of pancreatic mass
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Naproxen 500 mg PO Q8H:PRN knee pain 
3. DiphenhydrAMINE 25 mg PO HS:PRN insomnia 

 
Discharge Medications:
1. DiphenhydrAMINE 25 mg PO HS:PRN insomnia 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Biliary obstruction due to pancreatitic mass
High cholesterol
Breast cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
It was a pleasure taking care of you during your recent 
admission to ___. You were admitted for observation following 
your ERCP. Your diet was advanced in the morning and you 
tolerated it well. You were also seen by Dr. ___ surgical 
oncology. Her office will contact you for follow up.
If you continue to have diarrrhea, please call your PCP or 
oncologist.
 
Followup Instructions:
___